US05344843
A solution of 4-[2-(2-naphthalenyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid methyl ester (0.57 g) in methanol (3 mL) and tetrahydrofuran (8 mL) was treated with 1N sodium hydroxide (1.7 mL) and a white precipitate formed after 1 minutes. After 5 minutes, the reaction mixture was concentrated, the residue was acidified with excess hydrochloric acid and partitioned between dichloromethane (100 mL) and water (10 mL). The organic layer was dried (MgSO4) and concentrated. The resulting residue was crystallized from ethyl acetate-hexane-tetrahydrofuran to give 0.343 of 4-[2-(2-naphthalenyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid, mp 167°-170° C.

reactant | 4-[2-(2-naphthalenyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid methyl ester | 0.57 g | COC(C(C1=CC=C(C=C1)OCC(=O)C1=CC2=CC=CC=C2C=C1)=O)=O | C21H16O5
reactant | sodium hydroxide | 1N, 1.7 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 4-[2-(2-naphthalenyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid | C1=C(C=CC2=CC=CC=C12)C(COC1=CC=C(C=C1)C(C(=O)O)=O)=O | C20H14O5
